US07262230B2
Synthesis of 4-chloro-1,3-phenylene diacrylate
To a solution of 4-chlororesorcinol (86.76 g, 0.60 mol) in anhydrous THF (750 mL) in a 2-liter three neck round bottom flask equipped with dry nitrogen purge, thermo-couple, condenser, and ice-water bath, triethylamine (163.6 g, 1.62 mol) in anhydrous THF (100 mL) was added dropwise in 10 minutes. After 10 minutes, acryloyl chloride (136 g, 1.5 mol) in anhydrous THF (300 mL) was added dropwise in 30-60 minutes (maintain 0-5C of the solution). A precipitate formed immediately, and the mixture was warmed to room temperature and stirred overnight (˜15 hrs). The resulting mixture was filtered to remove the solid, and the filtrate was concentrated by rotary evaporation to give a darkly colored viscous liquid. The liquid was dissolved in methylene chloride (200 mL), cooled in an ice bath, washed with 1.0 N sodium hydroxide until pH>10, washed with 1.0 N HCl until pH<2, washed with DI water until pH>5, and dried over anhydrous sodium sulfate. The compound was purified by column chromatography and vacuum concentrated at room temperature to give a pale yellow or colorless liquid.

reactant | 4-chlororesorcinol | 0.60 mol, 86.76 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | triethylamine | 1.62 mol, 163.6 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 1.5 mol, 136 g | C(C=C)(=O)Cl | C3H3ClO
reactant | THF | 750 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | THF | 300 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-1,3-phenylene diacrylate | C(C=C)(=O)OC1=CC(=C(C=C1)Cl)OC(C=C)=O | C12H9ClO4
